US07582629B2
2-Butyl-4-{[4-(hydroxymethyl)phenyl]amino}-5-phenylisothiazol-3(2H)-one 1,1-dioxide
2-Butyl-4-chloro-5-phenylisothiazol-3(2H)-one 1,1-dioxide (110 mg, 0.331 mmol) was dissolved in dry DMF (0.5 mL) under nitrogen atmosphere. (4-Aminophenyl)methanol (122 mg, 0.991 mmol) was added and the reaction mixture was heated in a microwave reactor for 25 mins at 140° C. The crude product was purified by preparative HPLC affording the title compound (6 mg, 4.7%). 1H NMR (500 MHz, CD3CN): δ 1.00 (t, 3H), 1.43-1.52 (m, 2H), 1.78-1.85 (m, 2H), 3.03 (t, 1H), 3.75 (t, 2H), 4.40 (d, 2H), 6.77 (d, 2H), 6.97 (d, 2H), 7.13-7.19 (m, 4H), 7.24-7.28 (m, 1H), 7.76 (bs, 1H).

reactant | 2-Butyl-4-chloro-5-phenylisothiazol-3(2H)-one 1,1-dioxide | 0.331 mmol, 110 mg | C(CCC)N1S(C(=C(C1=O)Cl)C1=CC=CC=C1)(=O)=O | C13H14ClNO3S
reactant | (4-Aminophenyl)methanol | 0.991 mmol, 122 mg | NC1=CC=C(C=C1)CO | C7H9NO
solvent | DMF | 0.5 mL | CN(C)C=O | C3H7NO
product | 2-Butyl-4-{[4-(hydroxymethyl)phenyl]amino}-5-phenylisothiazol-3(2H)-one 1,1-dioxide | 6 mg, 4.7% | C(CCC)N1S(C(=C(C1=O)NC1=CC=C(C=C1)CO)C1=CC=CC=C1)(=O)=O | C20H22N2O4S
